US04524212
(j) 1-[(5S,2R)-5-(Benzoyloxy)-2-methyl-1,4-dioxo-6-phenylhexyl]-L-proline
A mixture of 1-[(5S,2R)-5-(benzoyloxy)-2-methyl-1,4-dioxo-6-phenylhexyl]-L-proline, phenylmethyl ester (230 mg., 0.435 mmole) and 10% palladium on carbon catalyst (50 mg.) in ethyl acetate (15 ml.) is stirred under hydrogen gas for 4 hours. The resulting mixture is filtered (millipore) and the filtrate concentrated to give the desired product as a colorless solid which is then dried under vacuum over P2O5 to give 144 mg. of 1-[(5S,2R)-5-(benzoyloxy)-2-methyl-1,4-dioxo-6-phenylhexyl]-L-proline; m.p. 130°-134°; [α]D20 =-110° (c=1.09, pyridine); Rf =0.37 [silica gel, ethyl acetate:pyridine:acetic acid; water (180:20:6:11)].

reactant | 1-[(5S,2R)-5-(benzoyloxy)-2-methyl-1,4-dioxo-6-phenylhexyl]-L-proline, phenylmethyl ester | 0.435 mmole, 230 mg | C(C1=CC=CC=C1)(=O)O[C@H](C(C[C@H](C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)CCC1)C)=O)CC1=CC=CC=C1 | C32H33NO6
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 1-[(5S,2R)-5-(Benzoyloxy)-2-methyl-1,4-dioxo-6-phenylhexyl]-L-proline | C(C1=CC=CC=C1)(=O)O[C@H](C(C[C@H](C(=O)N1[C@H](C(=O)O)CCC1)C)=O)CC1=CC=CC=C1 | C25H27NO6
